US07728029B2
To a solution of 5-Chloro-1-cyclopropyl-1H-pyrazole-4-carboxylic acid ethyl ester (296 mg, 1.38 mmol) in methanol (15 mL) and water (15 mL) was added LiOH (40 mg, 1.66 mmol). The reaction mixture was stirred at reflux overnight and then concentrated under reduced pressure to remove the methanol. The residue was diluted with water, acidified to pH=2 with concentrated HCl, and extracted with ethyl acetate. The organic extracts were evaporated in vacuo to give 5-chloro-1-cyclopropyl-1H-pyrazole-4-carboxylic acid (242 mg, 93%) which was used without further purification.

reactant | 5-Chloro-1-cyclopropyl-1H-pyrazole-4-carboxylic acid ethyl ester | 1.38 mmol, 296 mg | C(C)OC(=O)C=1C=NN(C1Cl)C1CC1 | C9H11ClN2O2
reactant | LiOH | 1.66 mmol, 40 mg | [Li+].[OH-]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 5-chloro-1-cyclopropyl-1H-pyrazole-4-carboxylic acid | 242 mg, 93% | ClC1=C(C=NN1C1CC1)C(=O)O | C7H7ClN2O2
